US04011225
3-methyl-5,6,7,8-tetrahydroquinoline
The title compound was prepared from commercially available 3-amino-2-methylacrolein and cyclohexanone according to the method of Breitmaier and Bayer (Tet. Letts, 1970, 38, 3291-4) and isolated as a pale yellow oil b.p. 120°/15 mm. (30% yield).

reactant | 3-amino-2-methylacrolein | NC=C(C=O)C | C4H7NO
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 3-methyl-5,6,7,8-tetrahydroquinoline | 30% yield | CC=1C=NC=2CCCCC2C1 | C10H13N
